US07183270B2
Part A. Preparation of 6-Chloro-2-methyl-quinazolin-4-ol
2-Amino-5-chlorobenzoic acid (3.58 g, 20.9 mmol, 1 eq.), acetamidine hydrochloride (2.36 g, 25.1 mmol, 1.2 eq.) and 2-ethoxyethanol (70 mL) were mixed and refluxed for 48 h. The resultant solids were filtered and dried to yield 1.57 g of yellow solid product. MS (ES+)=195/197 (M+H)++.

reactant | 2-Amino-5-chlorobenzoic acid | 20.9 mmol, 3.58 g, 1 eq. | NC1=C(C(=O)O)C=C(C=C1)Cl | C7H6ClNO2
reactant | acetamidine hydrochloride | 25.1 mmol, 2.36 g, 1.2 eq. | Cl.C(C)(=N)N
solvent | 2-ethoxyethanol | 70 mL | C(C)OCCO | C4H10O2
product | 6-Chloro-2-methyl-quinazolin-4-ol | 1.57 g | ClC=1C=C2C(=NC(=NC2=CC1)C)O | C9H7ClN2O
